US09023858B2
E) 6-amino-2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one
A solution (3 mL) of 6-[(4-methoxybenzyl)amino]-2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one (400 mg) in trifluoroacetic acid was stirred with microwave irradiation at 100° C. for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to aminopropylsilane-bonded silica gel column chromatography (ethyl acetate/hexane) to give the title compound (270 mg) as a solid.

reactant | 6-[(4-methoxybenzyl)amino]-2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 3 mL, 400 mg | COC1=CC=C(CNC2=CC(N(C(=N2)CCC)C2=CC=C(C=C2)OCC(F)(F)F)=O)C=C1 | C23H24F3N3O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 6-amino-2-propyl-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 270 mg | NC1=CC(N(C(=N1)CCC)C1=CC=C(C=C1)OCC(F)(F)F)=O | C15H16F3N3O2
